US05866702
Preparation of 2-chloro-6-anilino-9-isopropylpurine (5).
2,6-dichloro-9-isopropylpurine (0.019 g, 0.081 mmol) was dissolved in butanol (0.5 ml) and aniline (0.044 ml, 0.244 mmol) was added. The reaction mixture was heated to 120° C. for 10 hr, cooled, diluted with EtOAc and washed 3 times with water. The mixture was dried over MgSO4 and concentrated to an off white solid.

reactant | 2,6-dichloro-9-isopropylpurine | 0.081 mmol, 0.019 g | ClC1=NC(=C2N=CN(C2=N1)C(C)C)Cl | C8H8Cl2N4
reactant | aniline | 0.244 mmol, 0.044 ml | NC1=CC=CC=C1 | C6H7N
solvent | butanol | 0.5 ml | C(CCC)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-6-anilino-9-isopropylpurine | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NC1=CC=CC=C1 | C14H14ClN5
